US03954868
Step 1: 1,3-Bis(4-benzoylphenoxy)propane
1,3-Diphenoxypropane (22.8 g), benzoyl chloride (31 g) and anhydrous aluminum chloride (33 g) are reacted in 1,2-dichloroethane (300 ml) for eighteen hours at 70° to yield 33.4 g (77% of theory) of colorless crystals mp 146°-8°.

reactant | 1,3-Diphenoxypropane | 22.8 g | O(C1=CC=CC=C1)CCCOC1=CC=CC=C1 | C15H16O2
reactant | benzoyl chloride | 31 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | aluminum chloride | 33 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | 1,2-dichloroethane | 300 ml | ClCCCl | C2H4Cl2
product | 1,3-Bis(4-benzoylphenoxy)propane | C(C1=CC=CC=C1)(=O)C1=CC=C(OCCCOC2=CC=C(C=C2)C(C2=CC=CC=C2)=O)C=C1 | C29H24O4
